US06211234B1
A solution of sodium (RS)-4-(2,3-dimethylphenyl)-4-hydroxybutanoate (1 g) is added to a stirred suspension of sodium hydride (0.5 g, 60% dispersion in mineral oil) in tetrahydrofuran (50 mL) under nitrogen. The mixture is stirred at room temperature for 3 hours when 2-fluoro-4-(3-pyridylmethoxy)benzonitrile (1 g) is added in one portion. The reaction mixture is heated at 55-60° C. for 18 hours and evaporated. The residue is dissolved in water (100 mL), the solution acidified to pH 1 with 1 N hydrochloric acid. The precipitated solid Is filtered, washed with water, ethyl acetate and ether, dried, and recrystallised from ethyl acetate to give (RS)-4-[2-cyano-5-(3-pyridylmethoxy)-phenoxy]-4-(2,3-dimethylphenyl)butanoic acid (0.85 g) as a white solid, m.p. 187-189° C. [Elemental analysis:- C,71.76; H,6.59; N,5.67%. Calculated:- C,72.10; H,6.73; N,5.81%]

reactant | sodium (RS)-4-(2,3-dimethylphenyl)-4-hydroxybutanoate | 1 g | CC1=C(C=CC=C1C)C(CCC(=O)[O-])O.[Na+]
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 2-fluoro-4-(3-pyridylmethoxy)benzonitrile | 1 g | FC1=C(C#N)C=CC(=C1)OCC=1C=NC=CC1 | C13H9FN2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (RS)-4-[2-cyano-5-(3-pyridylmethoxy)-phenoxy]-4-(2,3-dimethylphenyl)butanoic acid | 0.85 g | C(#N)C1=C(OC(CCC(=O)O)C2=C(C(=CC=C2)C)C)C=C(C=C1)OCC=1C=NC=CC1 | C25H24N2O4
